US06900354B2
c) 3-[4-(3-Fluoro-benzyloxy)-phenyl]-but-2-enoic acid methylamide
0.224 g (4 mmol) of KOH is dissolved in 10 ml methanol. 0.4 g (1.33 mmol) of 3-[4-(3-fluoro-benzyloxy)-phenyl]-but-2-enoic acid methyl ester is added and the resulting solution refluxed for 6 hours, concentrated and acidified with 2N aqueous hydrochloric acid. Extraction with ethyl acetate gives 325 mg (85%) of the crude acid. This acid is dissolved in 10 ml of dichloromethane, 2 drops of N,N-dimethylformamide are added and the mixture is cooled to 0° C. Slow addition of 0.380 g (3 mmol) of oxalylchloride yields a yellow solution which is stirred for additional 1.5 hours at RT. Evaporation of the reaction mixture leaves a yellowish resin which is dissolved in 5 ml THF and slowly added at 0° C. to a mixture of 5 ml THF and 5 ml aqueous methylamine (40%). The resulting slurry is stirred at RT for 1 hour, evaporated, diluted with water and extracted three times with ethyl acetate. Chromatography on silica gel (cyclohexane/ethyl acetate 1:1) gives 220 mg (50%) of a colorless solid. MS: m/e=300.2 (M++H).

reactant | KOH | 4 mmol, 0.224 g | [OH-].[K+]
reactant | 3-[4-(3-fluoro-benzyloxy)-phenyl]-but-2-enoic acid methyl ester | 1.33 mmol, 0.4 g | COC(C=C(C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C18H17FO3
reactant | oxalylchloride | 3 mmol, 0.380 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 5 ml | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-but-2-enoic acid methylamide | 220 mg, 50% | CNC(C=C(C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C18H18FNO2
